US09353108B2
E) 6-(1-((2,6-Diethoxy-4′-fluorobiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylic acid
A 2 M aqueous sodium hydroxide solution (1.50 mL) was added at room temperature to a methanol (2 mL)-THF (2 mL) solution of methyl 6-(1-((2,6-diethoxy-4′-fluorobiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate (560 mg), and the mixture was stirred at 50° C. for 1 hour. The reaction mixture was neutralized with 6 M hydrochloric acid at room temperature. Then, ethyl acetate was added thereto, and the mixture was concentrated. The deposited solid was collected by filtration and washed with diethyl ether. The obtained solid was recrystallized (DMSO/ethanol/hexane) to obtain the title compound (141 mg).

reactant | sodium hydroxide | 2 M, 1.50 mL | [OH-].[Na+]
reactant | methanol | 2 mL | CO | CH4O
reactant | methyl 6-(1-((2,6-diethoxy-4′-fluorobiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate | 560 mg | C(C)OC1=C(C(=CC(=C1)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CCC)C(=O)OC)=O)OCC)C1=CC=C(C=C1)F | C35H42FN3O5
reactant | hydrochloric acid | 6 M | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 6-(1-((2,6-Diethoxy-4′-fluorobiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylic acid | 141 mg | C(C)OC1=C(C(=CC(=C1)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CCC)C(=O)O)=O)OCC)C1=CC=C(C=C1)F | C34H40FN3O5
